US07348438B2
2-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-1-(5-methyl-3-phenyl-isoxazol-4-yl)-ethanone
NaH (60%) (60 mg, 1.5 mmol) was added into a solution of dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole. 5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1H-indole (269 mg, 1 mmol) in DMF (5 ml) at 0° C. The resulting mixture was stirred at 0° C. for half hours. 2-bromo-1-(5-methyl-3-phenylisoxazol-4-yl)ethan-1-one (420 mg, 1.5 mmol) was then added to the reaction mixture at 0° C. The reaction temperature was raised to 25° C. and then the reaction mixture was stirred for 18 hours. NH4Cl (aq.) was added and extracted with EtOAc. The organic layer was washed with brine, then dried over anhydrous MgSO4. The solvent was distilled out under reduced pressure. Column chromatography (silica gel, EtOAc/hexanes (0% to 60%) yielded the title compound as a white solid.

reactant | NaH | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC=CC=2N(C(=NC21)CC(F)(F)F)Cl | C9H5Cl2F3N2
reactant | 5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1H-indole | 1 mmol, 269 mg | ClC=1C=C2C=C(NC2=CC1Cl)CC(F)(F)F | C10H6Cl2F3N
reactant | 2-bromo-1-(5-methyl-3-phenylisoxazol-4-yl)ethan-1-one | 1.5 mmol, 420 mg | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-1-(5-methyl-3-phenyl-isoxazol-4-yl)-ethanone | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC(=O)C=2C(=NOC2C)C2=CC=CC=C2)C=C1Cl | C21H14Cl2F3N3O2
